US05780505
3-(2-Chloro-4,6-dimethyl-benzylamino)-4-(1,2,2-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione
This compound was prepared according to the procedure described in Example 33. From 2-chloro-4,6-dimethylbenzaldehyde oxime (6.63 g, 36 mmol), zinc powder (9.4 g, 144 mmol), glacial acetic acid (72 mL), and 3,4-diethoxy-3-cyclobutene-1,2-dione (5.3 mL, 36 mmol) in absolute ethanol (180 mL) there was obtained after chromatography on silica gel (hexane:ethyl acetate, then 5% methanol in dichloromethane) followed by trituation with 10% ethyl acetate in hexane 5.32 g (50 %) of a solid. From a portion of this solid, 3-(2-chloro-4,6-dimethyl-benzylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione, (0.4 g, 1.36 mmol) and (R)-2-amino-3,3-dimethylbutane (8.2 mL of a 0.2M solution in absolute ethanol, 1.64 mmol) and dichloromethane (3 mL). there was obtained after 4 days at room temperature a solid, which was filtered, rinsed with ethyl acetate, and dried. This gave 0.36 g (76%) of the (R) isomer of the title compound as a white solid: mp >300° C.; 1 H NMR (DMSO-d6) δ7.26 (br s, 1H), 7.19 (s, 1H), 7.14 (br d, 1H), 7.05 (s, 1H), 4.88 (d, 2H), 3.90 (m, 1H), 2.35 (s, 3H), 2.26 (s, 3H), 1.08 (d, 3H), 0.84 (s, 9H) ppm. IR (KBr): 3170, 2970, 1800, 1650 cm-1 ; MS (m/z) 348/350 (M+).

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanol | CO | CH4O
reactant | 3-(2-chloro-4,6-dimethyl-benzylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione | 1.36 mmol, 0.4 g | ClC1=C(CNC=2C(C(C2OCC)=O)=O)C(=CC(=C1)C)C | C15H16ClNO3
reactant | (R)-2-amino-3,3-dimethylbutane | N[C@H](C)C(C)(C)C | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | hexane | 5.32 g | CCCCCC | C6H14
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-(2-Chloro-4,6-dimethyl-benzylamino)-4-(1,2,2-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione | ClC1=C(CNC=2C(C(C2NC(C(C)(C)C)C)=O)=O)C(=CC(=C1)C)C | C19H25ClN2O2
